US07642264B2
2-(4-Bromo-imidazol-1-yl)-4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine (example A.7) (0.50 g, 1.53 mmol) and commercially available 4-bromo-imidazole (0.34 g, 2.31 mmol) according to the general procedure IVb. Obtained as a white solid (0.38 g, 57%). MS (ISP) 439.0 [(M+H)+]; mp 225.5° C.

reactant | 2-chloro-4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine | 1.53 mmol, 0.50 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C(F)(F)F | C11H4Cl3F3N2
reactant | 4-bromo-imidazole | 2.31 mmol, 0.34 g | BrC=1N=CNC1 | C3H3BrN2
product | 2-(4-Bromo-imidazol-1-yl)-4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine | BrC=1N=CN(C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C(F)(F)F | C14H6BrCl2F3N4
